US07838543B2
Step 2. 2-Methylsulfanyl-5-nitro-benzooxazole
Suspend 5-nitro-3H-benzooxazole-2-thione (5.15 g, 26.3 mmol) in THF (150 mL). Cool in an ice bath to 5° C. and add sodium hydride (60% dispersion in mineral oil) (1.7 g, 42.5 mmol). Stir for 15 min at 5° C. Add dropwise iodomethane (5.0 mL, 80.1 mmol) dissolved in THF (30 mL) over 1 h. Continue to stir at room temperature for 4 h. Absorb the reaction mixture onto silica gel, and purify using silica gel chromatography, eluting with a gradient of EtOAc in hexane (0-60%) to afford the title compound (4.75 g, 86%). 1H NMR (400 MHz, DMSOd6): δ 8.47 (d, 1H, J=3.1 Hz), 8.24 (dd, 1H, J=9.0, 2.4 Hz), 7.89 (d, 1H, J=8.8 Hz), 2.81 (s, 3H).

reactant | 5-nitro-3H-benzooxazole-2-thione | 26.3 mmol, 5.15 g | [N+](=O)([O-])C=1C=CC2=C(NC(O2)=S)C1 | C7H4N2O3S
reactant | sodium hydride | 42.5 mmol, 1.7 g | [H-].[Na+]
reactant | iodomethane | 80.1 mmol, 5.0 mL | IC | CH3I
solvent | THF | 150 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-Methylsulfanyl-5-nitro-benzooxazole | 4.75 g, 86% | CSC=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C8H6N2O3S
